US04187379
A solution of 85 g of 3-(3-ethoxyphenoxy)pyridine in 500 ml of glacial acetic acid is treated with four 20 g portions of 40% peracetic acid in acetic acid. The mixture is stirred at 25° C. for 24 hours and is refluxed for 16 hours. The mixture is concentrated at reduced pressure, dissolved in 500 ml of dichloromethane and washed with excess 25% sodium hydroxide solution. The organic layer is dried, concentrated and distilled to yield 3-(3-ethoxyphenoxy)pyridine 1-oxide, bp 175°-177° C. at 0.4 mM.

reactant | 3-(3-ethoxyphenoxy)pyridine | 85 g | C(C)OC=1C=C(OC=2C=NC=CC2)C=CC1 | C13H13NO2
reactant | peracetic acid | C(C)(=O)OO | C2H4O3
solvent | acetic acid | 500 ml | C(C)(=O)O | C2H4O2
product | 3-(3-ethoxyphenoxy)pyridine 1-oxide | C(C)OC=1C=C(OC=2C=[N+](C=CC2)[O-])C=CC1 | C13H13NO3
